US07501516B2
7-(2-bromoethoxy)-3-cyano-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline
Using an analogous procedure to that described in Example 8, 3-cyano-7-hydroxy-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline was reacted with 2-bromoethanol to give the title compound in 82% yield; NMR Spectrum: (DMSOd6) 3.88 (t, 2H), 3.94 (s, 3H), 4.51 (t, 2H), 5.96 (s, 2H), 6.8-6.93 (m, 3H), 7.34 (s, 1H), 7.8 (s, 1H), 8.42 (s, 1), 9.53 (s, 1H); Mass Spectrum: M+H+ 444.

reactant | 3-cyano-7-hydroxy-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=CC=C1)OCO2)OC)O | C18H13N3O4
reactant | 2-bromoethanol | BrCCO | C2H5BrO
product | 7-(2-bromoethoxy)-3-cyano-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline | 82% yield | BrCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C2C(=CC=C1)OCO2)OC | C20H16BrN3O4
